US08686028B2
To a stirred solution of 7,8-dihydroxy-3-(2-methoxyphenyl)-4H-chromen-4-one (2 gm, 7.1 mmol) in dry CH2Cl2 (50 ml) at −80° C. was added BBr3 (1.4 ml in DCM, 14.2 mmol). The reaction mixture was then stirred for 1 hour at −80° C. and 12 hours at room temperature. The reaction was then quenched with ice-cooled water. The reaction mixture was then extracted with CH2Cl2 and the organic layer was separated, washed with brine, dried over Na2SO4, and evaporated. The residue was purified by silica gel column chromatography using hexane-chloroform as the eluent to give 7,8-dihydroxy-3-(2-hydroxy-phenyl)-chromen-4-one (0.95 gm, 50%) as white solid.

reactant | 7,8-dihydroxy-3-(2-methoxyphenyl)-4H-chromen-4-one | 7.1 mmol, 2 gm | OC1=CC=C2C(C(=COC2=C1O)C1=C(C=CC=C1)OC)=O | C16H12O5
reactant | BBr3 | 14.2 mmol, 1.4 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 7,8-dihydroxy-3-(2-hydroxy-phenyl)-chromen-4-one | 0.95 gm, 50% | OC1=CC=C2C(C(=COC2=C1O)C1=C(C=CC=C1)O)=O | C15H10O5
